US06995162B2
1-Boc-4-{3-[(2-chloro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine was prepared from 1-Boc-4-(3-amino-5-trifluoromethyl-phenoxy)-piperidine and 2-chloropyridine-3-carbonyl chloride by a procedure similar to that described in the preparation of 1-Boc-4-{3-[(2-fluoro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine.

reactant | 1-Boc-4-(3-amino-5-trifluoromethyl-phenoxy)-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)N | C17H23F3N2O3
reactant | 2-chloropyridine-3-carbonyl chloride | ClC1=NC=CC=C1C(=O)Cl | C6H3Cl2NO
reactant | 1-Boc-4-{3-[(2-fluoro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)NC(=O)C=1C(=NC=CC1)F | C23H25F4N3O4
product | 1-Boc-4-{3-[(2-chloro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)NC(=O)C=1C(=NC=CC1)Cl | C23H25ClF3N3O4
